US06825188B2
c) Methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A mixture of methyl (±)-8-(3-amino-1-propyloxy)-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate trifluoroacetate salt (0.75 g, 2 mmol), 2-bromopyrimidine (0.5 g, 3 mmol), NaHCO3 (1.4 g, 17 mmol), and EtOH (10 mL) was heated to reflux. After 24 hr, the mixture was filtered and the insoluble material was washed with MeOH. The filtrate and washings were combined and concentrated, and the residue was purified by chromatography on silica gel (1%-6% MeOH/CH2Cl2) to give the title compound (0.54 g, 82%) as a white foam: MS (ES) m/e 385.5 (M+H)+.

reactant | methyl (±)-8-(3-amino-1-propyloxy)-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate trifluoroacetate salt | 2 mmol, 0.75 g | FC(C(=O)O)(F)F.NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1
reactant | 2-bromopyrimidine | 3 mmol, 0.5 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | NaHCO3 | 17 mmol, 1.4 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | Methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.54 g, 82% | N1=C(N=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C20H24N4O4
